US04596799
To a stirred solution of 2.33 g of 8-chloro-10,11-dihydro-5H-pyrrolo[2,1-c][1,4]benzodiazepin-11-one in 50 mL of methylene chloride is added 5.33 g of aluminum trichloride in small aliquots over a 30 minute period. During this time the temperature of the reaction is maintained below 30°. To this reaction mixture 4 mL of methyl iodide is added, and the reaction is allowed to stir for 48 hours at room temperature. The reaction mixture is diluted with 24 mL of methanol and then poured into 150 mL of dilute hydrochloric acid. The methylene chloride layer is separated and washed with 200 mL of brine and saturated aqueous sodium bicarbonate. The methylene chloride extract is dried over anhydrous magnesium sulfate and evaporated to dryness to yield 8-chloro-2-methyl-10,11-dihydro-5-H-pyrrolo-[2,1-c][1,4]benzodiazepine-11-one, which was used without further purification.

reactant | 8-chloro-10,11-dihydro-5H-pyrrolo[2,1-c][1,4]benzodiazepin-11-one | 2.33 g | ClC1=CC2=C(CN3C(C(N2)=O)=CC=C3)C=C1 | C12H9ClN2O
reactant | aluminum trichloride | 5.33 g | [Cl-].[Cl-].[Cl-].[Al+3]
reactant | methyl iodide | 4 mL | CI | CH3I
reactant | hydrochloric acid | 150 mL | Cl | ClH
solvent | methylene chloride | 50 mL | C(Cl)Cl | CH2Cl2
solvent | methanol | 24 mL | CO | CH4O
product | 8-chloro-2-methyl-10,11-dihydro-5-H-pyrrolo-[2,1-c][1,4]benzodiazepine-11-one | ClC1=CC2=C(CN3C(C(N2)=O)=CC(=C3)C)C=C1 | C13H11ClN2O
